US07781463B2
N-(5-phenylpentyl)maleimide (Compound 6-D)
Reagents: Ph3P (0.65 g, 2.5 mmol), DIAD (0.5 ml, 2.5 mmol), 5-phenyl-1-pentanol (0.63 ml, 3.75 mmol) and maleimide (0.24 g, 2.5 mmol).

reactant | Ph3P | 2.5 mmol, 0.65 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 2.5 mmol, 0.5 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 5-phenyl-1-pentanol | 3.75 mmol, 0.63 ml | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | maleimide | 2.5 mmol, 0.24 g | C1(C=CC(N1)=O)=O | C4H3NO2
product | N-(5-phenylpentyl)maleimide | C1(=CC=CC=C1)CCCCCN1C(C=CC1=O)=O | C15H17NO2
